US06608062B1
To a mixture of hydrazono-phenyl-acetaldehyde oxime (30 g, 184 mmol) and triethyl orthoformate (30.6 ml, 184 mmol) was added 4-toluenesulphonic acid monohydrate (3.5 g, 18.4 mmol). The reaction mixture was heated at 110° C. with stirring for 30 min. The cooled reaction mixture was recrystallised from CH2Cl2/hexane to give 27 g (156 mmol, 85%) of 6-phenyl-[1,2,4]triazine-4-oxide as a pale yellow solid. δH (400 MHz; CDCl3) 7.55-7.63 (3H, m, aromatics), 8.01 (2H, dd, J 8.1 and 1.7, aromatics), 8.52 (1H, d, J 1.7, triazine H5), 9.27 (1H, d, J 1.7, triazine H3); m/z (ES+) 174 (M++H, 100%).

reactant | hydrazono-phenyl-acetaldehyde oxime | 184 mmol, 30 g | N(N)=C(C=NO)C1=CC=CC=C1 | C8H9N3O
reactant | triethyl orthoformate | 184 mmol, 30.6 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | 4-toluenesulphonic acid monohydrate | 18.4 mmol, 3.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 6-phenyl-[1,2,4]triazine-4-oxide | 156 mmol, 27 g, 85% | C1(=CC=CC=C1)C1=C[N+](=CN=N1)[O-] | C9H7N3O
